US06339045B1
Production of N-(n-propoxy)-4-methoxy-6-{3-(trifluoromethyl) phenoxy}-2-pyridine carboxamide (compound No. I-99)
0.6 g (0.0018 mol) of N-hydroxy-4-methoxy-6-{3-(trifluoromethyl)phenoxy)-2-pyridine carboxamide was dissolved in THF, and the obtained solution was mixed with 0.08 g (ca. 60% in mineral oil; 0.0018×1.1 mol) of NaH and then with 0.62 g (0.0018×2.0 mol) of n-propyl iodide, followed by treating the solution under reflux for about 2 hours. The reaction solution was distributed in ethyl acetate-saturated sodium bicarbonate water and then washed with saturated brine. The organic phase of the solution was dried with anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | N-hydroxy-4-methoxy-6-{3-(trifluoromethyl)phenoxy)-2-pyridine carboxamide | 0.0018 mol, 0.6 g | ONC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C14H11F3N2O4
reactant | NaH | 1.1 mol, 0.08 g | [H-].[Na+]
reactant | n-propyl iodide | 2.0 mol, 0.62 g | C(CC)I | C3H7I
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(n-propoxy)-4-methoxy-6-{3-(trifluoromethyl) phenoxy}-2-pyridine carboxamide | C(CC)ONC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C17H17F3N2O4
